Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bradycardia w/ heart block  
 
Major Surgical or Invasive Procedure:
___ - Implant of dual chamber permanent pacemaker

 
History of Present Illness:
Ms. ___ is a ___ lady with HTN, CHF (EF %), factor V leiden w/ 
DVTs on coumadin, h/o breast cancer, and h/o pancreatic cancer 
who p/w nausea and fatigue to ___ transferred to ___ 
for heart block.  
 Patient felt unwell ___ night with nausea w/o vomiting and 
fatigue. Family member noted HR 30 so went to ___ 
___ found to have HR ___ with possible 3rd degree AV block 
so transferred to ___ for further evaluation. During 
transportation to ___, patient converted to NSR.  
No f/c, SOB, CP, palpitations, syncope, ___ edema, diarrhea, 
dysuria, rash.  

In the ED initial vitals were: 98.1, HR 80, 156/68, RR 20, 98% 
RA  
EKG in ___: NSR  
Labs/studies notable for: Hgb 9.6, K5/Ca9.3/Mg2.3, Cr 1.8, Trop 
negative, INR 1.8  
Patient was given: 1L NS, tylenol ___, and lisinopril 2.5mg  
Vitals on transfer: 73, 147/47, 17, 99% on RA  

On the floor patient is feeling well.  
ROS:  As above  
 
Past Medical History:
Oncologic history:
- Breast cancer: Right-sided ER positive breast cancer status 
post lumpectomy and radiation in ___, on Arimidex
- Pancreatic cancer: ___ presented with abdominal pain, 
weight loss, dysphagia, weight loss. CT and MRCP showed a 
pancreatic mass. ___: ___'s pancreaticoduodenectomy. 
Pathology showed a 
pT3N1b pancreatic ductal adenocarcinoma; ___ lymph nodes were  
involved. Margins were negative, although within 1 mm. 
Perineural invasion was seen; lymphovascular invasion was not  
seen. ___: started adjuvant Gemcitabine, received 2  
cycles. ___: adjuvant radiation with concurrent 
Capecitabine. ___: resumed Gemcitabine for cycle 3.

Non-oncologic PMH:
- hypertension
- Type 2 diabetes mellitus.  
- Hypercholesterolemia.  
- History of factor V Leiden with two prior lower extremity DVTs 
on chronic anticoagulation, s/p IVC filter ___. 
 
Social History:
___
Family History:
Mother: ___ Cancer
Father: CAD
Sister: ___ Cancer
Sister: ___ Cancer
Sister: b/l Breast Cancer
Brother: Died@___ of CAD
 
Physical Exam:
====================
EXAM ON ADMISSION
====================
73, 147/47, 17, 99% on RA  
GENERAL: WDWN white elderly female in NAD.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 7cm. No carotid bruits  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.  
NEURO: AOx3, CNII-XII, moving all extremities  
SKIN: No stasis dermatitis or ulcers  
PULSES: Distal pulses palpable and symmetric  

====================
EXAM ON DISCHARGE
====================
Vitals:  98.4, 135/87, 68, 18, 99% RA
Last 24 hours I/O: not recorded
Weight on admission: 60kg
Today's weight: 62.9kg

General: A+O in NAD  
HEENT: JVP not elevated
Chest: L subclavian entry site for PPM c/d/I with no erythemia 
or hematoma (bandaged, c/d/I, so exam limited)
Lungs:  CTAB, no rales, rhonchi, or wheezing
CV: rrr, no murmurs 
Abdomen: soft, nontender, nondistended
Ext:  no edema
 
Pertinent Results:
========================
LABS ON ADMISSION
========================
___ 09:30PM BLOOD WBC-7.7 RBC-3.57* Hgb-9.6* Hct-30.9* 
MCV-87 MCH-26.9 MCHC-31.1* RDW-12.6 RDWSD-39.4 Plt ___
___ 09:30PM BLOOD Neuts-86.6* Lymphs-8.7* Monos-3.4* 
Eos-0.4* Baso-0.5 Im ___ AbsNeut-6.63* AbsLymp-0.67* 
AbsMono-0.26 AbsEos-0.03* AbsBaso-0.04
___ 09:30PM BLOOD ___ PTT-28.7 ___
___ 09:30PM BLOOD Glucose-271* UreaN-38* Creat-1.8* Na-134 
K-5.0 Cl-98 HCO3-22 AnGap-19
___ 09:30PM BLOOD ALT-24 AST-30 AlkPhos-110* TotBili-0.2
___ 09:30PM BLOOD Lipase-9
___ 09:30PM BLOOD cTropnT-0.01
___ 07:40AM BLOOD cTropnT-<0.01
___ 09:30PM BLOOD Albumin-3.8 Calcium-9.3 Phos-4.0 Mg-2.3

========================
INTERVAL PERTINENT LABS
========================
___ 07:40AM BLOOD calTIBC-243* Ferritn-424* TRF-187*

========================
LABS ON DISCHARGE
========================
___ 06:20AM BLOOD WBC-6.4 RBC-3.52* Hgb-9.5* Hct-30.2* 
MCV-86 MCH-27.0 MCHC-31.5* RDW-12.6 RDWSD-38.6 Plt ___
___ 06:20AM BLOOD ___ PTT-28.9 ___
___ 06:20AM BLOOD Glucose-137* UreaN-23* Creat-1.5* Na-135 
K-4.1 Cl-101 HCO3-24 AnGap-14
___ 06:20AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.2

========================
MICROBIOLOGY
========================
none

========================
IMAGING
========================
___ CXR - There is a new left-sided dual lead pacemaker with 
distal lead tips in the right atrium and right ventricle.  Heart 
size is prominent but unchanged. Lungs are grossly clear.  There 
are no pneumothoraces.

___ CXR - There is a dual lead left -sided pacemaker with 
intact leads.  Heart size is upper limits of normal but stable.  
Lungs are grossly clear.  There are no pneumothoraces.

 
Brief Hospital Course:
Ms. ___ is a ___ lady with HTN, CHF (EF %), factor V leiden w/ 
DVTs on coumadin, h/o breast cancer, and h/o pancreatic cancer 
who p/w nausea and fatigue to ___ transferred to ___ 
for heart block.  

# At ___, the patient was found to be 
bradycardic with high degree heart block: strips from OSH 
demonstrated bradycardia w/ complete heart block. The patient 
spontaneously converted to sinus prior to her arrival at ___. 
In the hospital she was found to be symptomatic. The EP service 
was consulted, and a dual-chamber pacemaker was placed on ___. 
The patient tolerated the procedure well. She received three 
days of post-procedure antibiotics with cefazolin, and was 
discharged home on keflex, to be complete on ___. Plan for EP 
followup in 1 week. 

#HFpEF:  Continued home torsemide 10mg. 

#Factor V Leiden: The patient was initially placed on a heparin 
gtt, and her home coumadin was held. However, per discussion 
with patient, her outpatient heme/onc provider, and the EP 
service, it was decided to continue her home warfarin without 
bridging. 

Chronic
==================  
#HTN: The patient's labetolol was held due to her heart block. 
Her lisinopril was increased to 5mg daily.

#h/o Breast Cancer: continued on home anastrozole.  

#s/p whipple: continued on home creon  

#GERD: continued on home protonix  

#DM: Continued home ISS.

#Anemia: Continued home iron supplements. 

===============
TRANSITIONAL ISSUES
===============
- Discharge INR: 1.6 - please follow up to have INR drawn within 
2 days of discharge (have results faxed to Dr. ___ at 
___
- The patient was discharged on a 2 day course of antibiotics, 
to be completed on ___.
- The patient's labetolol was held due to her heart block. The 
patient's blood pressure was found to be persistently elevated 
in the hospital (180s/90s). Her lisinopril was increased to 5mg 
daily, and will likely need to be increased in the outpatient 
setting.
- The patient should have follow up with EP, cardiology, and her 
primary care doctor.
# CODE: Full 
# CONTACT: ___ (daughter) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Anastrozole 1 mg PO DAILY 
3. Labetalol 100 mg PO BID 
4. Warfarin 2.5 mg PO 6X/WEEK (___) 
5. Creon 12 1 CAP PO TID W/MEALS 
6. Lactobacillus rhamnosus GG 10 billion cell oral BID 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. OxycoDONE (Immediate Release)  5 mg PO Frequency is Unknown 
10. Torsemide 5 mg PO DAILY 
11. NPH 8 Units Breakfast
NPH 8 Units Dinner
12. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Anastrozole 1 mg PO DAILY 
2. Creon 12 1 CAP PO TID W/MEALS 
3. Ferrous Sulfate 325 mg PO DAILY 
4. NPH 8 Units Breakfast
NPH 8 Units Dinner
5. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO BID:PRN pain 
7. Pantoprazole 40 mg PO Q24H 
8. Torsemide 5 mg PO DAILY 
9. Warfarin 2.5 mg PO 6X/WEEK (___) 
10. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
11. Lactobacillus rhamnosus GG 10 billion cell oral BID 
12. Cephalexin 500 mg PO Q8H Duration: 2 Days 
Please take one pill three times a day until your pills run out. 

RX *cephalexin 500 mg 1 capsule(s) by mouth every 8 hours Disp 
#*4 Capsule Refills:*0
13. Outpatient Lab Work
Please have INR drawn on ___. Please have results faxed to 
Dr. ___ at ___. ICD 10 code ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Complete heart block

Secondary Diagnoses:
- Chronic systolic heart failure 
- Diabetes type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being a part of your care team at ___ 
___. You were admitted because you were not 
feeling well and were found to have a slow heart beat. We were 
concerned about this slow beat, and so you underwent an 
operation where we placed a pacemaker. You will need to follow 
up with the heart electricity doctors (___). They 
will call you next week to schedule this appointment. However, 
if you do not hear from them by ___, please call 
___ to schedule this appointment. You should also 
follow up with your primary care doctor and with a cardiologist.

Because of the procedure where a pacemaker was placed, you need 
to take an antibiotic so that it does not get infected. Please 
take all of your Keflex as prescribed, until you run out of 
pills.

We made a few changes to your medications. You should stop 
taking labetolol for your high blood pressure because it can 
slow down your heart rhythm. We have increased your dose of 
lisinopril to help with your blood pressure instead. You can 
discuss this further with your doctor.

Because of your heart failure, please weigh yourself every 
morning, and call your primary care doctor at ___ if 
your weight goes up more than 3 lbs.

It was very nice to meet you, and we wish you all the best.
Sincerely,
Your ___ Team
 
 
Followup Instructions:
___